US04022769
1α-Methyl-4-androstene-17β,19-diol is dissolved in dimethylformamide at 40° C. and two equivalents of Jones Reagent are added all at once. The mixture is stirred for about 5 hours at 40° C., cooled and a 1% aqueous sodium sulfite solution is added. After several hours the crystals which form are collected by filtration, thoroughly washed with water and air dried. Crystallization from hexane yields the desired 1α-methyl-4-androstene-17,19-dione.

reactant | 1α-Methyl-4-androstene-17β,19-diol | C[C@H]1CCC=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12CO)O | C20H32O2
reactant | Jones Reagent | two equivalents | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1α-methyl-4-androstene-17,19-dione | C[C@H]1CCC=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C=O)=O | C20H28O2
